US07205314B2
2-Hydroxy-3-(5,6,7,8-tetrahydroquinazolin-4-yl)-1H-indole-5-carboxylic acid methyl ester
The title compound was synthesized according to the procedure described for Example 9 using sodium tert-butoxide (48 mg, 0.5 mmol), methyl 2-oxo-5-indolinecarboxylate (21 mg, 0.11 mmol) and 4-chloro-5,6,7,8-tetrahydroquinazoline solution (0.1 mL, 1 M in N-methylpyrrolidinone, corresponding to 17 mg, 0.1 mmol; described in: Budesinsky Z., Roubinek F. Collect. Czech. Chem. Commun., 1964, 29, 2341). The crude oil was purified on SCX-column pre-rinsed with methanol using ethyl acetate, methylene chloride, methylene chloride/methanol 1:1, and methanol/ammonia (2 M, aq) as elution solvents.

reactant | sodium tert-butoxide | 0.5 mmol, 48 mg | CC(C)([O-])C.[Na+]
reactant | methyl 2-oxo-5-indolinecarboxylate | 0.11 mmol, 21 mg | O=C1NC2=CC=C(C=C2C1)C(=O)OC | C10H9NO3
reactant | 4-chloro-5,6,7,8-tetrahydroquinazoline | 0.1 mmol, 1 M, 0.1 mL, 17 mg | ClC1=NC=NC=2CCCCC12 | C8H9ClN2
product | 2-Hydroxy-3-(5,6,7,8-tetrahydroquinazolin-4-yl)-1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=C(NC2=CC1)O)C1=NC=NC=2CCCCC12 | C18H17N3O3
